US07601736B2
8-methyl-6-phenyl-2H-[2,7]naphtyridine-1-on (500 mg, 2.116 mmol) was suspended in anhydrou ethanol, added with 5% Pd/C (400 mg) and then stirred at room temperature under the hydrogen atmosphere for about 72 hours. The mixture was filtered and then concentrated under reduced pressure. A silica gel column chromatography (2% MeOH/MC) was performed on the resulting residue and obtained 462 mg (92%) of 8-methyl-6-phenyl-3,4-dihydro-2H-[2,7]naphtyridine-1-on in white solid.

reactant | 8-methyl-6-phenyl-2H-[2,7]naphtyridine-1-on | 2.116 mmol, 500 mg | CC=1N=C(C=C2C=CNC(C12)=O)C1=CC=CC=C1 | C15H12N2O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 400 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 8-methyl-6-phenyl-3,4-dihydro-2H-[2,7]naphtyridine-1-on | 462 mg, 92% | CC=1N=C(C=C2CCNC(C12)=O)C1=CC=CC=C1 | C15H14N2O
